### PR TITLE
[Merged by Bors] - feat: two lemmas about partial homeomorphisms

### PR DESCRIPTION
**Pull request by grunweg**
From sphere-eversion. While I'm in the area,

- remove `image_isOpen_of_isOpen`, which is an exact duplicate of `isOpen_image_of_subset_source`
- rename `image_isOpen_of_isOpen'` to `isOpen_image_source_inter_of_isOpen` (which matches the naming convention)
- move `isOpen_inter_preimage_symm` next to its adjacent lemmas

### CODE REVIEW

**Comment by grunweg** [comment]
I see an argument that the later-occuring lemmas were present before the port, hence should be preferred.
However, the earlier lemmas have a different naming scheme, also used in sphere-eversion. I guess I'm asking "which name is better".

**Comment by grunweg** [comment]
@ocfnash I think you wrote this back in sphere-eversion.

File: Mathlib/Topology/PartialHomeomorph.lean [hunk 1]
```diff
@@ -465,6 +465,19 @@ lemma isOpen_image_symm_of_subset_target {t : Set β} (ht : IsOpen t) (hte : t 
...
+    IsOpen (e.symm '' t) ↔ IsOpen t := by
+  refine ⟨fun h ↦ ?_, fun h ↦ e.symm.isOpen_image_of_subset_source h hs⟩
+  have hs' : e.symm '' t ⊆ e.source := by
+    rw [e.symm_image_eq_source_inter_preimage hs]
+    apply Set.inter_subset_left
+  rw [← e.image_symm_image_of_subset_target hs]
+  exact e.isOpen_image_of_subset_source h hs'
+
+theorem isOpen_image_iff_of_subset_source {s : Set α} (hs : s ⊆ e.source) :
+    IsOpen s ↔ IsOpen (e '' s) := by
```
Comment (ocfnash) [inline Mathlib/Topology/PartialHomeomorph.lean:478]: We usually prefer the RHS to be the simpler form (when this makes sense):
```suggestion
    IsOpen (e '' s) ↔ IsOpen s  := by
```

File: Mathlib/Topology/PartialHomeomorph.lean [hunk 2]
```diff
@@ -673,14 +686,12 @@ theorem isOpen_inter_preimage_symm {s : Set α} (hs : IsOpen s) : IsOpen (e.targ
 /-- The image of an open set in the source is open. -/
 theorem image_isOpen_of_isOpen {s : Set α} (hs : IsOpen s) (h : s ⊆ e.source) :
```
Comment (ocfnash) [inline Mathlib/Topology/PartialHomeomorph.lean:687]: We should just excise this lemma since it is an exact duplicate of `PartialHomeomorph.isOpen_image_of_subset_source`.

File: Mathlib/Topology/PartialHomeomorph.lean [hunk 3]
```diff
@@ -673,14 +686,12 @@ theorem isOpen_inter_preimage_symm {s : Set α} (hs : IsOpen s) : IsOpen (e.targ
...
     IsOpen (e '' s) := by
-  have : e '' s = e.target ∩ e.symm ⁻¹' s := e.toPartialEquiv.image_eq_target_inter_inv_preimage h
-  rw [this]
-  exact e.continuousOn_symm.isOpen_inter_preimage e.open_target hs
+  apply e.isOpen_image_of_subset_source hs h
 #align local_homeomorph.image_open_of_open PartialHomeomorph.image_isOpen_of_isOpen
 
 /-- The image of the restriction of an open set to the source is open. -/
 theorem image_isOpen_of_isOpen' {s : Set α} (hs : IsOpen s) : IsOpen (e '' (e.source ∩ s)) :=
```
Comment (ocfnash) [inline Mathlib/Topology/PartialHomeomorph.lean:693]: Are you saying this duplicates a lemma?

If we're keeping it it should be renamed to `isOpen_image_source_inter_of_isOpen`.

File: Mathlib/Topology/PartialHomeomorph.lean (hunk 2 above)
Comment (grunweg) [reply Mathlib/Topology/PartialHomeomorph.lean:687]: Sure: except that this lemma was first. Which name do you prefer?

File: Mathlib/Topology/PartialHomeomorph.lean (hunk 3 above)
Comment (grunweg) [reply Mathlib/Topology/PartialHomeomorph.lean:693]: Renamed. (I meant a different lemma, clarified now.)

File: Mathlib/Topology/PartialHomeomorph.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/Topology/PartialHomeomorph.lean:688]: I prefer `PartialHomeomorph.isOpen_image_of_subset_source` since it is available earlier and is correctly named.

**Comment by grunweg** [comment]
Updated the code and the top-level comment; this is ready again. Thanks for the quick look.

File: Mathlib/Topology/PartialHomeomorph.lean [hunk 4]
```diff
@@ -454,17 +454,42 @@ theorem isOpen_inter_preimage {s : Set β} (hs : IsOpen s) : IsOpen (e.source 
...
+  e.isOpen_image_of_subset_source (e.open_source.inter hs) (inter_subset_left _ _)
+#align local_homeomorph.image_open_of_open' PartialHomeomorph.isOpen_image_source_inter_of_isOpen
 
 /-- The inverse of a partial homeomorphism `e` is an open map on `e.target`. -/
 lemma isOpen_image_symm_of_subset_target {t : Set β} (ht : IsOpen t) (hte : t ⊆ e.target) :
     IsOpen (e.symm '' t) :=
   isOpen_image_of_subset_source e.symm ht (e.symm_source ▸ hte)
 
+lemma isOpen_symm_image_iff_of_subset_target {t : Set β} (hs : t ⊆ e.target) :
+    IsOpen (e.symm '' t) ↔ IsOpen t := by
```
Comment (urkud) [inline Mathlib/Topology/PartialHomeomorph.lean:481]: Please add the symmetric version `(s ⊆ e.source) ⊢ IsOpen (e '' s) ↔ IsOpen s`.

File: Mathlib/Topology/PartialHomeomorph.lean [hunk 5]
```diff
@@ -454,17 +454,42 @@ theorem isOpen_inter_preimage {s : Set β} (hs : IsOpen s) : IsOpen (e.source 
...
+/-- A partial homeomorphism is an open map on its source:
+  the image of an open subset of the source is open. -/
 lemma isOpen_image_of_subset_source {s : Set α} (hs : IsOpen s) (hse : s ⊆ e.source) :
     IsOpen (e '' s) := by
   rw [(image_eq_target_inter_inv_preimage (e := e) hse)]
   exact e.continuousOn_invFun.isOpen_inter_preimage e.open_target hs
+#align local_homeomorph.image_open_of_open PartialHomeomorph.isOpen_image_of_subset_source
+
+/-- The image of the restriction of an open set to the source is open. -/
+theorem isOpen_image_source_inter_of_isOpen {s : Set α} (hs : IsOpen s) :
```
[the remark this answers is not in the document]
Comment (urkud) [reply Mathlib/Topology/PartialHomeomorph.lean:470]: @ocfnash :arrow_up: ?

**Comment by urkud** [comment]
> When renaming lemmas, I believe we're now leaning towards leaving a deprecated alias with the old name in place for a while.

There is no formal requirement (at least, yet), though downstream users will definitely appreciate this.

**Comment by grunweg** [comment]
> > When renaming lemmas, I believe we're now leaning towards leaving a deprecated alias with the old name in place for a while.
> 
> There is no formal requirement (at least, yet), though downstream users will definitely appreciate this.

Some data: this had exactly two uses in mathlib (both changed in this PR) and four uses in sphere-eversion. I think that's mild enough to not bother with this, at the moment.

File: Mathlib/Topology/PartialHomeomorph.lean (hunk 4 above)
Comment (grunweg) [reply Mathlib/Topology/PartialHomeomorph.lean:481]: That already exists as `isOpen_image_iff_of_subset_source`. :-)

File: Mathlib/Topology/PartialHomeomorph.lean (hunk 5 above)
[the remark this answers is not in the document]
Comment (ocfnash) [reply Mathlib/Topology/PartialHomeomorph.lean:470]: @urkud agreed.

**Comment by ocfnash** [comment]
I think it's worth implementing Yury's naming improvement [here](https://github.com/leanprover-community/mathlib4/pull/9623#discussion_r1448066450) and then this is ready to merge.

Thanks!

bors d+

**Comment by grunweg** [comment]
Thanks, @ocfnash and @urkud for the fast reviews!
bors r+
